US08426411B2
Hydrochloric acid (4 M in 1,4-dioxane, 0.300 mL, 1.20 mmol) was added to a slurry of 8-(2-methoxypyridin-4-yl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.016 g, 0.060 mmol, (prepared using D from Preparation #BBBBB.1 and NaOH, GGG.1 with NBS, K.1 with TsCl and NaH, CCCCC with 2-methoxy-4-(tributylstannyl)pyridine [Synthonix], tetrakis(triphenylphosphinepalladium(0), LiCl, CsF, and CuI, D with NaOH) in EtOH (0.500 mL) and water (0.050 mL). The reaction vessel was sealed and the mixture was warmed to about 80° C. After about 15 h, the mixture was warmed to about 90° C. After about 65 h, the solution was allowed to cool to ambient temperature. The volatiles were removed under reduced pressure to afford 4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-8-yl)pyridin-2(1H)-one (0.0153 g, 94%): LC/MS (Table 1, Method a) Rt=0.73 min; MS m/z 253 (M+H)+.

reactant | Hydrochloric acid | 1.20 mmol, 4 M, 0.300 mL | Cl | ClH
reactant | 8-(2-methoxypyridin-4-yl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | COC1=NC=CC(=C1)C1=CNC=2N=CC=3N(C21)C=NN3 | C13H10N6O
reactant | NaOH | [OH-].[Na+]
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | TsCl | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NaH | [H-].[Na+]
reactant | 2-methoxy-4-(tributylstannyl)pyridine | COC1=NC=CC(=C1)[Sn](CCCC)(CCCC)CCCC
solvent | EtOH | 0.500 mL | CCO | C2H6O
solvent | water | 0.050 mL | O | H2O
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-8-yl)pyridin-2(1H)-one | 0.0153 g, 94% | C1=NN=C2N1C1=C(N=C2)NC=C1C1=CC(NC=C1)=O | C12H8N6O
